US07989457B2
Step B. 2-Methyl-4′-trifluoromethyl-biphenyl-4-carboxylic acid
Add sodium hydroxide (5.0N, 0.03 mL, 0.15 mmol) to 2-methyl-4′-trifluoromethyl-biphenyl-4-carboxylic acid methyl ester (2.52 g, 8.6 mmol) in methanol (15 mL) and stir for two hours. Acidify with 1.0 N HCl and extract desired compound with ethyl acetate three times. Wash organic phase with saturated sodium chloride solution, dry over Na2SO4, filter and concentrate under reduced pressure to provide 2.31 g (96%) of title compound.

reactant | sodium hydroxide | 0.15 mmol, 5.0N, 0.03 mL | [OH-].[Na+]
reactant | 2-methyl-4′-trifluoromethyl-biphenyl-4-carboxylic acid methyl ester | 8.6 mmol, 2.52 g | COC(=O)C1=CC(=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)C | C16H13F3O2
solvent | methanol | 15 mL | CO | CH4O
product | 2-Methyl-4′-trifluoromethyl-biphenyl-4-carboxylic acid | 2.31 g, 96% | CC1=C(C=CC(=C1)C(=O)O)C1=CC=C(C=C1)C(F)(F)F | C15H11F3O2
